US05047411
A solution of 6-[(2-pyridyl)methyl]-2-aminobenzothiazole (1.3 g) and ethyl isocyanate (0.6 ml) in tetrahydrofuran (25 ml) was stirred at 60° C. for 4 hours. Evaporation of the solvent gave a residue which was crystallized from tetrahydrofuran. The crystal was collected by filtration to give 6-[(2-pyridyl)methyl]-2-(3-ethylureido)benzothiazole (0.68 g).

reactant | 6-[(2-pyridyl)methyl]-2-aminobenzothiazole | 1.3 g | N1=C(C=CC=C1)CC1=CC2=C(N=C(S2)N)C=C1 | C13H11N3S
reactant | ethyl isocyanate | 0.6 ml | C(C)N=C=O | C3H5NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6-[(2-pyridyl)methyl]-2-(3-ethylureido)benzothiazole | 0.68 g | N1=C(C=CC=C1)CC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C16H16N4OS
